US04307230
A solution of 4-bromo-2-methoxyimino-3-oxo-butyryl chloride syn isomer (2 g) in acetone (10 cc) is added, in the course of 7 minutes, to a solution, cooled to -10° C., of 7-amino-2-benzhydryloxycarbonyl-8-oxo-3-(2-tosyloxy-vinyl)-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene, E-form (4.7 g) in acetone (50 cc), water (5 cc) and sodium bicarbonate (2.8 g). The mixture is stirred for 1 hour at -10° C. and is then concentrated to dryness at 20° C. under 20 mm Hg (2.7 kPa). Crude 2-benzhydryloxycarbonyl-7-(4-bromo-2-methoxyimino-3-oxo-butyrylamino)-8-oxo-3-(2-tosyloxy-vinyl)-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene (syn isomer, E-form) (11 g) is obtained.

reactant | 4-bromo-2-methoxyimino-3-oxo-butyryl chloride | BrCC(C(C(=O)Cl)=NOC)=O | C5H5BrClNO3
reactant | 7-amino-2-benzhydryloxycarbonyl-8-oxo-3-(2-tosyloxy-vinyl)-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene | NC1C2SCC(=C(N2C1=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C=COS(=O)(=O)C1=CC=C(C)C=C1 | C29H26N2O6S2
reactant | water | 5 cc | O | H2O
reactant | sodium bicarbonate | 2.8 g | C([O-])(O)=O.[Na+]
solvent | acetone | 10 cc | CC(=O)C | C3H6O
solvent | acetone | 50 cc | CC(=O)C | C3H6O
product | 2-benzhydryloxycarbonyl-7-(4-bromo-2-methoxyimino-3-oxo-butyrylamino)-8-oxo-3-(2-tosyloxy-vinyl)-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene | 11 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C=COS(=O)(=O)C1=CC=C(C)C=C1)NC(C(C(CBr)=O)=NOC)=O)=O | C34H30BrN3O9S2
